US08461134B2
2,2,2-Trifluoro-1-(indolin-1-yl)ethanone
Indoline (5 g, 42 mmol) was dissolved in pyridine (50 mL) and cooled to 0° C. Trifluoroacetic anhydride (7 mL, 1.2 eq) was added dropwise and the solution was allowed to warm to rt and stirred for an additional 2 hrs. All solvent was removed under vacuum and the residue partitioned between EtOAc and 1M HCl. Evaporated to 8.59 g of the title compound as a red colored solid.

reactant | Indoline | 42 mmol, 5 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | Trifluoroacetic anhydride | 7 mL, 1.2 eq | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 2,2,2-Trifluoro-1-(indolin-1-yl)ethanone | FC(C(=O)N1CCC2=CC=CC=C12)(F)F | C10H8F3NO
